US06492394B1
To an ice-cooled solution of 2(R)-(4-methoxybenzenesulfonylamino)-3-methylbutyric acid (7.0 g, 21.25 mmol) in dry methylene chloride was added N,N′-diisopropyl-O-tert-butylisourea (12.1 mL, 3.5M) via addition funnel over 45 min. The reaction mixture was maintained at 0° C. for 2 h and then allowed to warm to room temperature overnight. The reaction mixture was loaded onto a flash silica gel column and eluted with ethyl acetate/hexane (5%) to give 2(R)-(4-methoxybenzenesulfonylamino)-3-methylbutyric acid tert-butyl ester (7.02 g) as a white crystalline solid.

reactant | 2(R)-(4-methoxybenzenesulfonylamino)-3-methylbutyric acid | 21.25 mmol, 7.0 g | COC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)O)C(C)C | C12H17NO5S
reactant | N,N′-diisopropyl-O-tert-butylisourea | 3.5M, 12.1 mL | C(C)(C)NC(OC(C)(C)C)=NC(C)C | C11H24N2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2(R)-(4-methoxybenzenesulfonylamino)-3-methylbutyric acid tert-butyl ester | 7.02 g | C(C)(C)(C)OC([C@@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)OC)=O | C16H25NO5S
